US04814391
Several secondary diamine adducts of cobalt(II) acetylacetonate were prepared by adding 1.04 grams (4 millimoles) of cobalt acetylacetonate into a 50 ml two-necked flask. There was then added 30 ml of freshly distilled toluene along with a stir bar. The mixture was heated and residual water bound to the cobalt acetylacetonate was azotropically removed. When the distillation temperature reached 110° C., heating of the mixture was discontinued. There was then added 0.76 grams (4.4 millimoles) of N,N'-dibutylethylenediamine when the refluxing had subsided. The solution was stirred for one hour and allowed to cool. The product was crystallized from the solution after removal of some of the solvent by rotoevaporation. Recrystallization was effected from a hexane/methylenechloride mixture at -20° C. The same procedure was repeated except that in place of N,N'-di-t-butylethylenediamine there was added N,N'-t-N-butylethylenediamine. The following results were obtained:

reactant | cobalt acetylacetonate | 4 millimoles, 1.04 grams | CC(=O)CC(=O)C.CC(=O)CC(=O)C.CC(=O)CC(=O)C.[Co]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | N,N'-dibutylethylenediamine | 4.4 millimoles, 0.76 grams | C(CCC)NCCNCCCC | C10H24N2
solvent | water | O | H2O
product | cobalt(II) acetylacetonate | C/C(=C\C(=O)C)/O.C/C(=C/C(=O)C)/O.[Co] | InChI=1S/2C5H8O2.Co/c2*1-4(6)3-5(2)7;/h2*3,6H,1-2H3;/b4-3+;4-3-;
